US06765012B2
2-(3′-Methoxy-3-nitro-biphenyl-4-yl)-malonic acid dimethyl ester (4.4023 gms.) is suspended in 45 mL of 6N HCl and heated at 110° C. for 4 days. The reaction mixture is cooled to room temperature and the precipitate is collected by filtration. As the solid material is in rather large chunks, the solid purification is simplified by first dissolving the solid chunks in an excess of hot methanol, and subsequently concentrating the solution in vacuo to get a more manageable powder. This powder is then triturated with approximately 10 mL of methanol and filtered yielding (3′-methoxy-3-nitro-biphenyl-4-yl)-acetic acid in the amount of 2.0120 gms.

reactant | 2-(3′-Methoxy-3-nitro-biphenyl-4-yl)-malonic acid dimethyl ester | 4.4023 gms | COC(C(C(=O)OC)C1=C(C=C(C=C1)C1=CC(=CC=C1)OC)[N+](=O)[O-])=O | C18H17NO7
solvent | HCl | 6N, 45 mL | Cl | ClH
product | (3′-methoxy-3-nitro-biphenyl-4-yl)-acetic acid | COC=1C=C(C=CC1)C1=CC(=C(C=C1)CC(=O)O)[N+](=O)[O-] | C15H13NO5
